data/oMe_Silver.jsonl
{"reaction_id": "NR-327_1-C(C)(C)C_2-CC(C)(O[Si](C)(C)C(C)(C)C)C","level": "medium","name": "Yamaguchi Esterification","reactants_smiles": ["C(=O)(O)C(C)(C)C","OCC(C)(O[Si](C)(C)C(C)(C)C)C","O=C(Cl)c1c(Cl)cc(Cl)cc1Cl","CCN(CC)CC","CN(C)c1ccncc1"],"products_smiles": ["C(=O)(OCC(C)(O[Si](C)(C)C(C)(C)C)C)C(C)(C)C"],"conditions": "1. Triethylamine, 2,4,6-Trichlorobenzoyl chloride; 2. DMAP","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)([O-])C(C)(C)C","step_weight": 0,"rationale": "Triethylamine deprotonates the carboxylic acid, generating a nucleophilic carboxylate stabilized by resonance, primed for acyl chloride attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(OC(Cl)([O-])c1c(Cl)cc(Cl)cc1Cl)C(C)(C)C","step_weight": 0,"rationale": "The carboxylate attacks the electrophilic carbonyl of 2,4,6-trichlorobenzoyl chloride, whose electron-withdrawing chlorines enhance carbonyl susceptibility."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(OC(=O)c1c(Cl)cc(Cl)cc1Cl)C(C)(C)C","step_weight": 0,"rationale": "Chloride leaves due to its good leaving group ability, forming a mixed anhydride stabilized by resonance and aromatic electron withdrawal."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(OC(=O)c1c(Cl)cc(Cl)cc1Cl)([n+]1ccc(N(C)C)cc1)C(C)(C)C","step_weight": 0,"rationale": "DMAP, a strong nucleophilic catalyst, attacks the less hindered carbonyl of the mixed anhydride, forming an acylpyridinium intermediate with enhanced electrophilicity."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)([n+]1ccc(N(C)C)cc1)C(C)(C)C","step_weight": 0,"rationale": "The trichlorobenzoate anion departs, stabilized by resonance and inductive effects from chlorines, leaving the reactive acylpyridinium species."},{"step": 6,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])([OH+]CC(C)(O[Si](C)(C)C(C)(C)C)C)([n+]1ccc(N(C)C)cc1)C(C)(C)C","step_weight": 0,"rationale": "The alcohol nucleophile attacks the activated acylpyridinium carbonyl, favored by reduced steric hindrance and strong electrophilicity."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(OCC(C)(O[Si](C)(C)C(C)(C)C)C)([n+]1ccc(N(C)C)cc1)C(C)(C)C","step_weight": 0,"rationale": "Proton transfer occurs to neutralize the alkoxide and regenerate the DMAP leaving group, driven by acid-base equilibrium."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(OCC(C)(O[Si](C)(C)C(C)(C)C)C)C(C)(C)C","step_weight": 0,"rationale": "DMAP departs as a stable neutral species, yielding the ester product through collapse of the tetrahedral intermediate."}],"description": "In the Yamaguchi esterification, the carboxylate is activated by 2,4,6-trichlorobenzoyl chloride in the presence of base, forming a mixed anhydride. DMAP catalyzes nucleophilic attack by the alcohol, facilitating ester formation via enhanced electrophilicity and good leaving group expulsion under mild conditions."}
